US07230099B2
Step C: Preparation of 4-(4-bromo-2-chlorophenylamino)-5-chloro-6-(2-oxopropylamino)-nicotinic acid tert-butyl ester.
To a solution of 4-(4-bromo-2-chlorophenylamino)-5-chloro-6-(2-hydroxypropylamino)-nicotinic acid tert-butyl ester (0.28 g, 0.57 mmol) in acetonitrile (1.1 mL) was added 4 Å molecular sieves and N-methylmorpholine (0.10 g, 0.85 mmol). The mixture was cooled to 0° C. and tetrapropylammonium perruthenate (0.030 g, 0.085 mmol) was added. After stirring for one hour, the reaction was filtered through a plug of silica gel, washing with EtOAc. The filtrate was concentrated. Purification by flash column chromatography (20:1 hexanes/ethyl acetate) provided the desired product as a white solid (86 mg, 31%). MS APCI (+) m/z 490, 492 (M+, Cl, Br pattern) detected.

reactant | 4-(4-bromo-2-chlorophenylamino)-5-chloro-6-(2-hydroxypropylamino)-nicotinic acid tert-butyl ester | 0.57 mmol, 0.28 g | C(C)(C)(C)OC(C1=CN=C(C(=C1NC1=C(C=C(C=C1)Br)Cl)Cl)NCC(C)O)=O | C19H22BrCl2N3O3
reactant | N-methylmorpholine | 0.85 mmol, 0.10 g | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 1.1 mL | C(C)#N | C2H3N
catalyst | tetrapropylammonium perruthenate | 0.085 mmol, 0.030 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 4-(4-bromo-2-chlorophenylamino)-5-chloro-6-(2-oxopropylamino)-nicotinic acid tert-butyl ester | 86 mg, 31% | C(C)(C)(C)OC(C1=CN=C(C(=C1NC1=C(C=C(C=C1)Br)Cl)Cl)NCC(C)=O)=O | C19H20BrCl2N3O3
